US08420812B2
4-Methyl-6-(5-phenyl-pent-1-ynyl)-pyrimidine
This product was prepared from toluene-4-sulfonic acid 6-methyl-pyrimidin-4-yl ester and pent-4-ynyl-benzene following the general procedure for the Sonogashira cross-coupling reaction described above. Chromatography eluent: heptane/EtOAc 8:2; yield (36.6 mg, 31%); 1H NMR δ (CDCl3): 9.01 (s, 1H), 7.31-7.25 (m, 2H), 7.22-7.16 (m, 4H), 2.78 (t, J=7.18 Hz, 2H), 2.51 (s, 3H), 2.41 (t, J=7.17 Hz, 2H), 1.93 (p, J=7.22 Hz, 2H); LCMS m/z: 236.

reactant | toluene-4-sulfonic acid 6-methyl-pyrimidin-4-yl ester | CC1=CC(=NC=N1)OS(=O)(=O)C1=CC=C(C=C1)C | C12H12N2O3S
reactant | pent-4-ynyl-benzene | C(CCC#C)C1=CC=CC=C1 | C11H12
solvent | heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 4-Methyl-6-(5-phenyl-pent-1-ynyl)-pyrimidine | CC1=NC=NC(=C1)C#CCCCC1=CC=CC=C1 | C16H16N2
